vdr_parallel_network - fault test
I1 0 T DC 0.012
C1 T 0 3.96e-06
R2 T 0 11944.705607
R3 T 0 12237.016074
.op
.control
run
print v(T)
print @r2[i] @r3[i]
print @i1[i]
.endc
.end
